US04103086
To a solution of 3.3 g (37.5 mmole) of pyruvic acid and 7.9 g (37.5 mmole) of trichloroethyl chloroformate in 20 ml of dry tetrahydrofuran at 0° is added dropwise 0.6 ml of pyridine. After stirring for 2 hrs. at room temperature, the mixture is concentrated in vacuum, diluted with water and extracted with ethyl acetate. The extract is washed with 5% HCl, dried over MgSO4, evaporated and distilled in vacuum to give 4.0 g (50%) trichloroethyl pyruvate, bp 75°-82° (17 mm).

reactant | pyruvic acid | 37.5 mmole, 3.3 g | C(C(=O)C)(=O)O | C3H4O3
reactant | trichloroethyl chloroformate | 37.5 mmole, 7.9 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | pyridine | 0.6 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | trichloroethyl pyruvate | 4.0 g, 50% | C(C(=O)C)(=O)OCC(Cl)(Cl)Cl | C5H5Cl3O3
